US06486098B1
N-(2-Fluorophenyl)-N-methyl-2-(4-hydroxyphenoxy)propionamide
N-(2-fluorophenyl)-N-methyl-2-bromopropionamide(18.2 g, 0.07 mol), hydroquinone(7 g, 0.064 mol), potassium carbonate(10.54 g, 0.076 mol) and tetra-n-butylammonium bromide(1 g) were dissolved in 350 ml of acetonitrile and heated at reflux for 6 hours. The reaction mixture was cooled to room temperature and solid remained during the reaction was filtered out. The filtrate was concentrated under reduced pressure and the crude product was purified by column chromatography(eluent: ethyl acetate/n-hexane=1/2) to afford 16 g of the target product.

reactant | N-(2-fluorophenyl)-N-methyl-2-bromopropionamide | 0.07 mol, 18.2 g | FC1=C(C=CC=C1)N(C(C(C)Br)=O)C | C10H11BrFNO
reactant | hydroquinone | 0.064 mol, 7 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 0.076 mol, 10.54 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra-n-butylammonium bromide | 1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
product | N-(2-Fluorophenyl)-N-methyl-2-(4-hydroxyphenoxy)propionamide | 16 g | FC1=C(C=CC=C1)N(C(C(C)OC1=CC=C(C=C1)O)=O)C | C16H16FNO3
